US06716851B2
4-(2,5-Diethoxy-4-morpholinoanilino)-2-(3-pyridinyl)-6-(trifluoromethyl)pyrimidine
The title compound was prepared from a mixture of 4-chloro-2-(3-pyridinyl)-6-(trifluoromethyl)pyrimidine (50 mg, 0.193 mmol) and 2,5-diethoxy-4-morpholinoaniline dihydrochloride (98 mg, 0.290 mmol) similar to Example 117 and isolated as a brown oil (3 mg, 3%). 1H NMR (CDCl3): 9.64-9.63 (m, 1H), 8.74-8.69 (m, 2H), 7.42-7.38 (m, 1H), 7.33 (s, 1H), 6.83 (s, 1H), 6.60 (s, 1H), 4.13 (q, J=7.2 Hz, 4H), 3.92-3.89 (m, 4H), 3.14-3.11 (m, 4H), 1.26 (t, J=7.2 Hz, 6H).

reactant | 4-chloro-2-(3-pyridinyl)-6-(trifluoromethyl)pyrimidine | 0.193 mmol, 50 mg | ClC1=NC(=NC(=C1)C(F)(F)F)C=1C=NC=CC1 | C10H5ClF3N3
reactant | 2,5-diethoxy-4-morpholinoaniline dihydrochloride | 0.290 mmol, 98 mg | Cl.Cl.C(C)OC1=C(N)C=C(C(=C1)N1CCOCC1)OCC
product | 4-(2,5-Diethoxy-4-morpholinoanilino)-2-(3-pyridinyl)-6-(trifluoromethyl)pyrimidine | C(C)OC1=C(NC2=NC(=NC(=C2)C(F)(F)F)C=2C=NC=CC2)C=C(C(=C1)N1CCOCC1)OCC | C24H26F3N5O3
